US08304546B2
Potassium carbonate (2.1 g, 15.2 mmol) and 4-(2-chloroethyl)morpholine hydrochloride (1.36 g, 7.31 mmol) were added to an N-methylpyrrolidone (NMP) solution (5 ml) of 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (1.0 g, 3.05 mmol) and then stirred at 50 to 60° C. for 45 hours. Water and ethyl acetate were added to the reaction mixture, followed by separation. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution twice, and then concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:methanol=50:1→30:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate, giving a white powder of 5-fluoro-3-(4-methoxyphenyl)-1-(2-morpholin-4-ylethyl)-8-propoxy-1H-quinolin-4-one (1.01 g, yield: 75%).

reactant | Potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 7.31 mmol, 1.36 g | Cl.ClCCN1CCOCC1
reactant | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
reactant | 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 3.05 mmol, 1.0 g | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C=C1)OC)=O | C19H18FNO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-fluoro-3-(4-methoxyphenyl)-1-(2-morpholin-4-ylethyl)-8-propoxy-1H-quinolin-4-one | 1.01 g, yield: 75% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCN1CCOCC1)C1=CC=C(C=C1)OC)=O | C25H29FN2O4
